US05587389
11. 5-Methoxy-2-{[[3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole
Following the procedure described in Example 1, the reaction of 5-methoxy-2-mercapto-1H-benzimidazole with 2-chloromethyl-3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]pyridine hydrochloride and aqueous sodium hydroxide solution gives the title compound as a yellow oil, from which a hydrochloride salt of the title compound is obtained as a colorless powder of m.p. 165° C (decomp.) by following the procedure described in Example 4.

reactant | 5-methoxy-2-mercapto-1H-benzimidazole | COC1=CC2=C(NC(=N2)S)C=C1 | C8H8N2OS
reactant | 2-chloromethyl-3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]pyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCCC1=C(N=CS1)C
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-Methoxy-2-{[[3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole | COC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2C)SCCC2=C(N=CS2)C)C=C1 | C21H22N4OS3
